US04287341
2-[4-(2,3-Dihydro-4H-benzopyran-2-carbonyl)-piperazin-1-yl]-4-amino-6-chloro-7-methoxyquinazoline hydrochloride
To 0.10 mole of 2-(piperazin-1-yl)-4-amino-6-chloro-7-methoxyquinazoline in 300 ml. of methanol is added with vigorous stirring, 0.10 mole of 2,3-dihydro-4H-benzopyran-2-carboxylic acid chloride. After the addition is complete, the mixture is stirred for three hours at room temperature and the precipitated title compound is collected by filtration.

reactant | 2-(piperazin-1-yl)-4-amino-6-chloro-7-methoxyquinazoline | 0.10 mole | N1(CCNCC1)C1=NC2=CC(=C(C=C2C(=N1)N)Cl)OC | C13H16ClN5O
reactant | 2,3-dihydro-4H-benzopyran-2-carboxylic acid chloride | 0.10 mole | O1C(CCC2=C1C=CC=C2)C(=O)Cl | C10H9ClO2
solvent | methanol | CO | CH4O
product | 2-[4-(2,3-Dihydro-4H-benzopyran-2-carbonyl)-piperazin-1-yl]-4-amino-6-chloro-7-methoxyquinazoline hydrochloride | Cl.O1C(CCC2=C1C=CC=C2)C(=O)N2CCN(CC2)C2=NC1=CC(=C(C=C1C(=N2)N)Cl)OC | InChI=1S/C23H24ClN5O3.ClH/c1-31-20-13-17-15(12-16(20)24)21(25)27-23(26-17)29-10-8-28(9-11-29)22(30)19-7-6-14-4-2-3-5-18(14)32-19;/h2-5,12-13,19H,6-11H2,1H3,(H2,25,26,27);1H
